US05679791
Preparation of Isopropyl 3-(2-chloro-4-fluoro-5-isothiocyanatophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate
Thiophosgene (0.50 mL, 6.5 mmol) is added over 45 minutes to a solution of isopropyl 3-(5-amino-2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate (2.5 g, 6.5 mmol), and triethylamine (1.8 mL, 13.0 mmol) in tetrahydrofuran. The reaction mixture is stirred at room temperature for 4 hours, diluted with tetrahydrofuran, and filtered. The filtrate is concentrated in vacuo to give the title product as an orange oil which is identified by NMR spectral analyses.

reactant | Thiophosgene | 6.5 mmol, 0.50 mL | C(=S)(Cl)Cl | CCl2S
reactant | isopropyl 3-(5-amino-2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | 6.5 mmol, 2.5 g | NC=1C(=CC(=C(C1)N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O)Cl)F | C15H16ClFN4O5
reactant | triethylamine | 13.0 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Isopropyl 3-(2-chloro-4-fluoro-5-isothiocyanatophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | ClC1=C(C=C(C(=C1)F)N=C=S)N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O | C16H14ClFN4O5S
